US05843957
Preparation of N-[1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,7-naphthyridin-3-yl]-N'-(2,4,6-trimethylphenyl)urea
A solution of 1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,7-naphthyridine-3-carboxylic acid (315 mg, 1 mmol), diphenylphosphoryl azide (330 mg, 1.2 mmol) and triethylamine (101 mg, 1 mmol) in N,N-dimethylformamide (DMF, 5 ml) was stirred at room temperature for 0.5 hour, and stirred at 80°-90° C. for 0.5 hour. After allowed to stand for cooling, to the mixture was added 2,4,6-trimethylaniline (162 mg, 1.2 mmol), and the mixture was stirred at room temperature for 0.5 hour, and then stirred at 80-90° C. for two hours. After allowed to stand for cooling, the mixture was diluted with ethyl acetate, washed with water, washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting solid was recrystallized from ethanol to give the title compound (350 mg, 0.78 mmol) as a colorless crystal.

reactant | 1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,7-naphthyridine-3-carboxylic acid | 1 mmol, 315 mg | CN1C(C(=C(C2=CC=NC=C12)C1=C(C=CC=C1)Cl)C(=O)O)=O | C16H11ClN2O3
reactant | diphenylphosphoryl azide | 1.2 mmol, 330 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethylaniline | 1.2 mmol, 162 mg | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,7-naphthyridin-3-yl]-N'-(2,4,6-trimethylphenyl)urea | 0.78 mmol, 350 mg | CN1C(C(=C(C2=CC=NC=C12)C1=C(C=CC=C1)Cl)NC(=O)NC1=C(C=C(C=C1C)C)C)=O | C25H23ClN4O2
